US08492582B2
Potassium carbonate (0.031 g) and 3-bromo-1-propanol (0.013 mL) were added to a 2-butanone (1.3 mL) solution of methyl 2-(2-(benzyloxy)-5-(2-(piperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate (0.084 g), followed by heating to reflux for 1 hour. The reaction mixture was cooled to room temperature, and then a saturated aqueous solution of sodium bicarbonate and ethyl acetate were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 100-91% chloroform/methanol] to obtain 0.036 g of methyl 2-(2-(benzyloxy)-5-(2-(4-(3-hydroxypropyl)piperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate as a light yellow oily substance.

reactant | Potassium carbonate | 0.031 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-1-propanol | 0.013 mL | BrCCCO | C3H7BrO
reactant | methyl 2-(2-(benzyloxy)-5-(2-(piperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate | 0.084 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCN1CCNCC1 | C34H35N3O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 2-butanone | 1.3 mL | CC(CC)=O | C4H8O
product | methyl 2-(2-(benzyloxy)-5-(2-(4-(3-hydroxypropyl)piperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate | 0.036 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCN1CCN(CC1)CCCO | C37H41N3O6
